US07037938B2
To a solution of tert-butyl [(2R)-2-(3-chlorophenyl)-2-hydroxyethyl][2-[4-(5-formyl-2-thienyl)phenyl]ethyl]-carbamate (180 mg) in acetonitrile (2 ml) and pH 4 buffer solution (sodium dihydrogenphosphate) (1 ml) was added 30% hydrogen peroxide solution (30 μl) and 80% sodium chlorite (67 mg) below 10° C. The reaction mixture was stirred at 50° C. for 3 hours. The mixture was diluted with ethyl acetate, washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure to give 5-[4-[2-[(tert-butoxycarbonyl)[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]phenyl]-2-thiophenecarboxylic acid (160 mg).

reactant | tert-butyl [(2R)-2-(3-chlorophenyl)-2-hydroxyethyl][2-[4-(5-formyl-2-thienyl)phenyl]ethyl]-carbamate | 180 mg | ClC=1C=C(C=CC1)[C@H](CN(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)C=1SC(=CC1)C=O)O | C26H28ClNO4S
reactant | hydrogen peroxide | 30 μl | OO | H2O2
reactant | sodium chlorite | 67 mg | Cl(=O)[O-].[Na+]
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[4-[2-[(tert-butoxycarbonyl)[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]phenyl]-2-thiophenecarboxylic acid | 160 mg | C(C)(C)(C)OC(=O)N(CCC1=CC=C(C=C1)C1=CC=C(S1)C(=O)O)C[C@H](O)C1=CC(=CC=C1)Cl | C26H28ClNO5S
